US04837217
To 20 ml of N,N-dimethylformamide were added 1.9 g of 4-chloro-2-ethyl-5-hydroxy-3(2H)-pyridazinone, 3.2 g of 2-bromomethyl-5-(4-chlorobenzoyl)-thiophene and 1.5 g of potassium carbonate, and the mixture was stirred at 50° to 60° C. for 2 hours. After cooling, the reaction mixture was poured into 50 ml of water and extracted twice with 50 ml of benzene. The organic layer was washed with water, dried over anhydrous sodium sulfate and then freed of solvent by distillation under reduced pressure to obtain 4.0 g of a crude product. The crude product was recrystallized from 2-propanol to obtain 3.1 g of 4-chloro-5-[{5-(4-chlorobenzoyl)-2-thienyl}-methyloxy]-2-ethyl-3(2H)-pyridazinone, m.p. 168.0°~168.5° C.

reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 4-chloro-2-ethyl-5-hydroxy-3(2H)-pyridazinone | 1.9 g | ClC=1C(N(N=CC1O)CC)=O | C6H7ClN2O2
reactant | 2-bromomethyl-5-(4-chlorobenzoyl)-thiophene | 3.2 g | BrCC=1SC(=CC1)C(C1=CC=C(C=C1)Cl)=O | C12H8BrClOS
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | 4-chloro-5-[{5-(4-chlorobenzoyl)-2-thienyl}-methyloxy]-2-ethyl-3(2H)-pyridazinone | 3.1 g | ClC=1C(N(N=CC1OCC=1SC(=CC1)C(C1=CC=C(C=C1)Cl)=O)CC)=O | C18H14Cl2N2O3S
